US06458814B1
b) (±)-3-Phenyl-4-[4-[[[2-(pyridin-2-yl)amino-1-ethyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoic acid
To a solution of ethyl(±)-3-phenyl-4-[4-[[[2-(pyridin-2-yl)amino-1-ethyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoate (157 mg, 0.37 mmole) in 1:1 THF/H2O (4 mL) was added 1.0 N LiOH (0.56 mL, 0.56 mmole). After 24 hr, the mixture was washed with Et2O (2×2 mL), and the pH of the aqueous layer was adjusted to 6 using 10% HCl. The solution was chromatographed on a C-18 Mega Bond Elut® column (50 mL H2O then 50 mL 10% CH3CN/H2O). Fractions containing the product were pooled and lyophilized to give the title compound (48 mg, 33%) as a white powder: MS (ES) m/e 395 (M+H)+. Anal. Calcd for C21H22N4O4. 0.75 HCl: C, 59.80; H, 5.44; N, 13.28. Found: C, 59.89; H, 5.50; N, 12.98.

reactant | ethyl(±)-3-phenyl-4-[4-[[[2-(pyridin-2-yl)amino-1-ethyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoate | 0.37 mmole, 157 mg | C1(=CC=CC=C1)C(CC(=O)OCC)CC=1OC=C(N1)C(=O)NCCNC1=NC=CC=C1 | C23H26N4O4
reactant | LiOH | 0.56 mmole, 1.0 N, 0.56 mL | [Li+].[OH-]
solvent | THF H2O | 4 mL | C1CCOC1.O
product | (±)-3-Phenyl-4-[4-[[[2-(pyridin-2-yl)amino-1-ethyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoic acid | 48 mg, 33% | C1(=CC=CC=C1)C(CC(=O)O)CC=1OC=C(N1)C(=O)NCCNC1=NC=CC=C1 | C21H22N4O4
